US08981084B2
Dry pyridine (0.24 mL, 2.74 mmol) was added dropwise to a solution of tert-butyl 3-((2-(4-fluorophenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate (500 mg, 1.37 mmol) in dry CH2Cl2 (12 mL) at 0° C., followed by trifluoromethanesulfonic anhydride (0.5 mL, 2.74 mmol). The reaction mixture was allowed to warm up to room temperature and stirred for 3 h. The reaction mixture was diluted with CH2Cl2 and the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product was purified by purified by column chromatography (silica gel 60-120 mesh, eluent 12-15% EtOAc in petroleum ether) to afford tert-butyl 3-(5-(4-fluorophenyl)oxazol-2-yl)piperidine-1-carboxylate (150 mg, yield 32%). 1H NMR (400 MHz, DMSO-d6) δ 7.75-7.72 (dd, J=9.0 Hz, 5.3 Hz, 2H), 7.55 (s, 1H), 7.33-7.29 (t, J=8.8 Hz, 2H), 3.99-3.90 (m, 1H), 3.69-3.60 (m, 1H), 3.02 (m, 1H), 2.12-2.07 (m, 1H), 1.82-1.76 (m, 2H), 1.64-1.57 (m, 1H), 1.51-1.42 (m, 2H), 1.35 (s, 9H). MS (ESI) m/z: Calculated for C19H23FN2O3: 346.17. found: 347.2 (M+H)+

reactant | pyridine | 2.74 mmol, 0.24 mL | N1=CC=CC=C1 | C5H5N
reactant | tert-butyl 3-((2-(4-fluorophenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate | 1.37 mmol, 500 mg | FC1=CC=C(C=C1)C(CNC(=O)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C19H25FN2O4
reactant | trifluoromethanesulfonic anhydride | 2.74 mmol, 0.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(5-(4-fluorophenyl)oxazol-2-yl)piperidine-1-carboxylate | 150 mg, yield 32% | FC1=CC=C(C=C1)C1=CN=C(O1)C1CN(CCC1)C(=O)OC(C)(C)C | C19H23FN2O3
